US06750246B1
(3R,4R)-1-Neopentyloxycarbonyl-4-phenyl-3-triethylsilyloxy-azetidin-2-one
By following the above procedure and using neopentylchloroformate, (3R,4R)-4-phenyl-3-triethylsilyloxy-azetidin-2-one was converted to the title product: 1H NMR (CDCl3) δ 0.39-0.97 (m, 24H), 3.73 (d, 1H, J=10.2 Hz), 3.90 (d, 1H, J=10.2 Hz), 5.10 (m, 2H), 7.31 (m, 5H).

reactant | neopentylchloroformate | C(C(C)(C)C)OC(=O)Cl | C6H11ClO2
reactant | (3R,4R)-4-phenyl-3-triethylsilyloxy-azetidin-2-one | C1(=CC=CC=C1)[C@@H]1[C@H](C(N1)=O)O[Si](CC)(CC)CC | C15H23NO2Si
product | (3R,4R)-1-Neopentyloxycarbonyl-4-phenyl-3-triethylsilyloxy-azetidin-2-one | C(C(C)(C)C)OC(=O)N1C([C@@H]([C@H]1C1=CC=CC=C1)O[Si](CC)(CC)CC)=O | C21H33NO4Si
